* D:\emman\Codes\Analog Design\God Mode Analog Design\CS Stage - Resistive Load.asc
M1 out N002 0 0 N_1u l={L*10u} w=31.6u
V1 N002 0 {VGS}
V2 N001 0 2
R1 N001 out 23.30k
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\emman\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.mos
.lib transistor_models.txt
.param L=0.1
.param VGS=0.9
.dc V1 0 2 1m
.backanno
.end
