* C:\Users\emman\OneDrive\Desktop\Microelectronics Research\CoE197U\Lab07\lab07_cs_amp_w_cm.asc
M1 VOUT N002 0 0 N_50n l=2u w=62.5u
VGS N002 0 0.35
VDD VDD 0 1.2
M2 VOUT N001 VDD VDD P_50n l=2u w=203.4u
M3 N001 N001 VDD VDD P_50n l=2u w=20u
IBIAS N001 0 10µ
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\emman\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.mos
.lib transistor_models.txt
.dc VGS 0.30 0.4 0.1m
.backanno
.end
