* C:\Users\emman\OneDrive\Desktop\Microelectronics Research\CoE197U\Lab08\lab08_diff_pair.asc
M1 VON VIP VTAIL 0 N_50n l=1u w=10u
M2 VOP VIN VTAIL 0 N_50n l=1u w=10u
ITAIL VTAIL 0 60µ
R1 VDD VON 20k
R2 VDD VOP 20k
VDD VDD 0 1.2
VID VIP N001 0
VIC N001 0 0.35
E§FIX VIN N001 VIP N001 -1
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\emman\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.mos
.inc transistor_models.txt
.dc VIC 0.3 0.5 1m
.backanno
.end
