* C:\Users\emman\OneDrive\Desktop\Microelectronics Research\Analog\analog_design\gmId\32nm_cs_active\32nm_diff.asc
M1 out1 N001 ss ss n_32n l=96n w=1.8u
M2 out2 N002 ss ss n_32n l=96n w=1.8u
I1 ss 0 70.76µ
V1 N001 0 SINE(0.5 50m 1.5k)
V2 N002 0 SINE(0.5 -50m 1.5k)
R1 dd out1 14.13k
R2 dd out2 14.13k
V3 dd 0 1
R3 ss 0 400k
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\emman\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.mos
.include 32n_lp.txt
.tran 10m
.backanno
.end
